.title kicad schematic

*.include NMOS-0.5um.lib
*.include PMOS-0.5um.lib
.lib /home/fossee/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt

xm1 out in gnd gnd sg13_hv_nmos
xm2 out in net-_m2-pad3_ net-_m2-pad3_ sg13_hv_pmos 
* u1 in plot_v1
* u2 out plot_v1
v2 in gnd pulse(0 3.3 0.1n 0.1n 0.1n 10m 20m)
v1 net-_m2-pad3_ gnd  dc 3.3
.tran 0.1e-03 100e-03 0e-00

.control
pre_osdi /home/fossee/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/fossee/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
.endc

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
